US07482461B2
Preparation of 3-(1-Methylpiperidin-4-yl)-5-(1-naphthylsulfonyl)-1H-indazole hydrochloride
A solution of 3-(1-methylpiperidin-4-yl)-5-(1-naphthylsulfonyl)-1H-indazole (0.16 g, 0.44 mmol) in CH3OH was treated with concentrated HCl (0.05 mL) and the resulting solution was concentrated to dryness. The resultant residue was redissolved in CH3OH (8.8 mL), treated sequentially with water (8.8 mL) and Oxone®1 (0.54 g, 0.88 mmol), stirred at room temperature for 20 min and concentrated in vacuo. This residue was dissolved in DMSO and purified by Gilson reverse phase HPLC. The purified material was treated with anhydrous HCl in ether and evaporated to dryness to afford the title compound as a yellow solid, 125 mg (64% yield), identified by HNMR and mass spectral analyses. MS (ES+) m/e 406 (MH+). 1Oxone® is potassium peroxymonosulfate, manufactured by Aldrich Chemical Co.

reactant | 3-(1-methylpiperidin-4-yl)-5-(1-naphthylsulfonyl)-1H-indazole | 0.44 mmol, 0.16 g | CN1CCC(CC1)C1=NNC2=CC=C(C=C12)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C23H23N3O2S
reactant | HCl | 0.05 mL | Cl | ClH
reactant | water | 8.8 mL | O | H2O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | CH3OH | CO | CH4O
product | 3-(1-Methylpiperidin-4-yl)-5-(1-naphthylsulfonyl)-1H-indazole hydrochloride | 64% yield | Cl.CN1CCC(CC1)C1=NNC2=CC=C(C=C12)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C23H23N3O2S.ClH/c1-26-13-11-17(12-14-26)23-20-15-18(9-10-21(20)24-25-23)29(27,28)22-8-4-6-16-5-2-3-7-19(16)22;/h2-10,15,17H,11-14H2,1H3,(H,24,25);1H
